US04778796
Preparation of N-[3 -(6-methyl-3-pyridyl)acryloyl]-3-(4-diphenylmethyl-1-piperazinyl)propylamine
A mixture of 1.0 g of N-[3-(6-methyl-3-pyridyl)acryloyl]-3-amino-1-chloropropane, 1.0 g of 1-diphenylmethylpiperazine, 0.55 g of potassium carbonate, 0.55 g of sodium iodide, and 30 ml of methyl ethyl ketone is refluxed with stirring for 6 hours. The reaction mixture is concentrated, and 20 ml of water is added. The mixture is extracted with three 30-ml portions of chloroform. The combined extracts are dried over magnesium sulfate, and the chloroform is distilled off. The residue is chromatographed on silica gel with chloroform-methanol (30:1) to give 0.65 g of the title compound. The product is converted into the fumarate in a usual manner to give the trifumarate 3/4 hydrate of the title compound. m.p. 196°-200° C. (recrystallized from ethanol)

reactant | N-[3-(6-methyl-3-pyridyl)acryloyl]-3-amino-1-chloropropane | 1.0 g | CC1=CC=C(C=N1)C=CC(=O)NCCCCl | C12H15ClN2O
reactant | 1-diphenylmethylpiperazine | 1.0 g | C1(=CC=CC=C1)C(N1CCNCC1)C1=CC=CC=C1 | C17H20N2
reactant | potassium carbonate | 0.55 g | C([O-])([O-])=O.[K+].[K+]
reactant | sodium iodide | 0.55 g | [I-].[Na+]
solvent | methyl ethyl ketone | 30 ml | C(C)C(=O)C | C4H8O
product | N-[3 -(6-methyl-3-pyridyl)acryloyl]-3-(4-diphenylmethyl-1-piperazinyl)propylamine | 0.65 g | CC1=CC=C(C=N1)C=CC(=O)NCCCN1CCN(CC1)C(C1=CC=CC=C1)C1=CC=CC=C1 | C29H34N4O
